US03946042
3-Diethylamino-2,2-dimethylpropyl 3,4-methylenedioxycinnamate hydrochloride
3,4-METHYLENEDIOXYCINNAMIC ACID (15 G, 0.08 MOLE) WAS ADDED TO THIONYL CHLORIDE (30 ML) WITH RAPID STIRRING AND THEN REFLUXED FOR 3 HOURS. The mixture was stripped of excess thionyl chloride, benzene (100 ml) was added, and the mixture was again stripped of solvent. The residue was treated with a solution of 3-diethylamino-2,2-dimethylpropanol (12.8 g, 0.08 mole) in benzene (400 ml), refluxed for 3 hours, cooled, diluted with petroleum ether (500 ml) and stored overnight at room temperature. The benzene-petroleum ether solution was decanted, the residue dissolved in H2O (500 ml), adjusted to pH 10 with saturated aqueous K2CO3, and the product was extracted with CHCl3 (600 ml). The CHCl3 extract was dried overnight over MgSO4 and Darco, filtered, and the filtrate was stripped of solvent under reduced pressure. The product was dissolved in ether (800 ml) and the solution was adjusted to pH 2 with a solution of dry HCl in ether. The product crystallized with scratching and was collected by filtration. Yield: 18 g (61%). A sample was recrystallized from ethyl acetate, m.p. 152°-154°.

reactant | 3,4-METHYLENEDIOXYCINNAMIC ACID | C1OC=2C=C(C=CC(=O)O)C=CC2O1 | C10H8O4
reactant | THIONYL CHLORIDE | S(=O)(Cl)Cl | Cl2OS
reactant | 3-diethylamino-2,2-dimethylpropanol | 0.08 mole, 12.8 g | C(C)N(CC(CO)(C)C)CC | C9H21NO
solvent | benzene | 400 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 3-Diethylamino-2,2-dimethylpropyl 3,4-methylenedioxycinnamate hydrochloride | Cl.C1OC=2C=C(C=CC(=O)OCC(CN(CC)CC)(C)C)C=CC2O1 | InChI=1S/C19H27NO4.ClH/c1-5-20(6-2)12-19(3,4)13-22-18(21)10-8-15-7-9-16-17(11-15)24-14-23-16;/h7-11H,5-6,12-14H2,1-4H3;1H
